US20010016635A1
Synthesis of (2-ethyl-phenyl)-3,3-dimethylbutyl-dimethoxysilane
Under an atmosphere of dry nitrogen a magnetically stirred suspension of anhydrous tetrahydrofuran (Aldrich, 300 mL) and magnesium turnings (Aldrich, 1.2 g, 49 mmol) was treated dropwise at room temperature with 1-bromo-2-ethylbenzene (Aldrich, 6.1 mL, 44 mmol). After minutes the reaction mixture began to reflux mildly. After the addition was complete the reaction mixture was heated to reflux overnight (18 h). A separate flask was flushed with dry nitrogen and then charged with anhydrous tetrahydrofuran (Aldrich, 100 mL) and 3,3-dimethylbutyl-trimethoxysilane (Huls, 11.4 mL, 49 mmol). The Grignard solution was cooled to room temperature and then added to the silane solution at room temperature via stainless steel cannula. The reaction mixture stirred at room temperature overnight (18 h). Ethyl alcohol (Aldrich, 5 mL) was added to quench any remaining Grignard. The reaction mixture was concentrated on a rotary evaporator and distilled in vacuum to give 3.7 g (30%) of the title compound as a colorless oil (b.p. 107-108° C. at 0.5 mm Hg, 99% GC-purity): C16H28O2Si (Mw=280).

reactant | magnesium | 49 mmol, 1.2 g | [Mg] | Mg
reactant | 1-bromo-2-ethylbenzene | 44 mmol, 6.1 mL | BrC1=C(C=CC=C1)CC | C8H9Br
reactant | 3,3-dimethylbutyl-trimethoxysilane | 49 mmol, 11.4 mL | CC(CC[Si](OC)(OC)OC)(C)C | C9H22O3Si
reactant | silane | [SiH4] | H4Si
solvent | Ethyl alcohol | 5 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | (2-ethyl-phenyl)-3,3-dimethylbutyl-dimethoxysilane | 3.7 g | C(C)C1=C(C=CC=C1)[Si](OC)(OC)CCC(C)(C)C | C16H28O2Si
